
.SUBCKT irf7700 1 2 3
**************************************
* Model Generated by MODPEX          *
*Copyright(c) Symmetry Design Systems*
* All Rights Reserved                *
* UNPUBLISHED LICENSED SOFTWARE      *
* Contains Proprietary Information   *
* Which is The Property of           *
* SYMMETRY OR ITS LICENSORS          *
*Commercial Use or Resale Restricted *
* by Symmetry License Agreement      *
**************************************
* Model generated on Mar 8, 01
* MODEL FORMAT: SPICE3
* Symmetry POWER MOS Model (Version 1.0)
* External Node Designations
* Node 1 -> Drain
* Node 2 -> Gate
* Node 3 -> Source
M1 9 7 8 8 MM L=100u W=100u
.MODEL MM PMOS LEVEL=1 IS=1e-32
+VTO=-1.48135 LAMBDA=0.127239 KP=96.5438
+CGSO=3.7447e-05 CGDO=1.47188e-06
RS 8 3 0.00964078
D1 1 3 MD
.MODEL MD D IS=9.09631e-08 RS=0.00967987 N=1.5 BV=20
+IBV=0.00025 EG=1.2 XTI=1 TT=0.0001
+CJO=8.01953e-10 VJ=5 M=0.865553 FC=0.5
RDS 3 1 1e+06
RD 9 1 0.000772282
RG 2 7 4.98533
D2 5 4 MD1
* Default values used in MD1:
* RS=0 EG=1.11 XTI=3.0 TT=0
* BV=infinite IBV=1mA
.MODEL MD1 D IS=1e-32 N=50
+CJO=1.286e-09 VJ=0.5 M=0.30074 FC=1e-08
D3 5 0 MD2
* Default values used in MD2:
* EG=1.11 XTI=3.0 TT=0 CJO=0
* BV=infinite IBV=1mA
.MODEL MD2 D IS=1e-10 N=0.4 RS=3.00002e-06
RL 5 10 1
FI2 7 9 VFI2 -1
VFI2 4 0 0
EV16 10 0 9 7 1
CAP 11 10 6.36787e-09
FI1 7 9 VFI1 -1
VFI1 11 6 0
RCAP 6 10 1
D4 6 0 MD3
* Default values used in MD3:
* EG=1.11 XTI=3.0 TT=0 CJO=0
* RS=0 BV=infinite IBV=1mA
.MODEL MD3 D IS=1e-10 N=0.4
.ENDS irf7700
